US04291042
2-(1-[Indol-3-ylmethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione
Formaldehyde (0.84 cm3, 40% aq. w/v, 11.3 mmol) was added to a stirred and cooled mixture of indole (1.32 g, 11.3 mmol), 2-(piperid-4-yl)-1H-isoindol-1,3-(2H)-dione, hydrochloride (3.0 g, 11.3 mmol), and sodium acetate (0.93 g, 11.3 mmol) in glacial acetic acid (10 cm3). The suspension was stirred at room temperature for 5 hours, then poured into water and a gummy precipitate filtered off. The mother liquors were basified by addition of 0.880 ammonia to precipitate the title compound, which was collected and dried (2.52 g, 62.4%).

reactant | Formaldehyde | 11.3 mmol, 0.84 cm3 | C=O | CH2O
reactant | indole | 11.3 mmol, 1.32 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2-(piperid-4-yl)-1H-isoindol-1,3-(2H)-dione, hydrochloride | 11.3 mmol, 3.0 g | Cl.N1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O
reactant | sodium acetate | 11.3 mmol, 0.93 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(1-[Indol-3-ylmethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione | N1C=C(C2=CC=CC=C12)CN1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C22H21N3O2
